Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old man with a PMH notable for bipolar 
disorder, history of opiate abuse (on methadone) and asthma who 
presented with RLE pain.
He noted the pain began in his right anterior thigh 5 days after 
injecting testosterone. He notes he obtains the testosterone 
from friends & online. He buys clean needles at a pharmacy & 
does not share them, though resuses them on himself. He does 
cleanse the area with alcohol pads.
He reports worsening pain and swelling with difficulty bending 
his knee or flexing his hip and bearing weight as well as some 
tingling in his right foot.
He denies IV drug use, fevers, dyspnea, palpitations, chest 
pain, visual changes, back pain, weakness, or abdominal 
complaints. He notes chills & subjective fever.
In the ED, initial vitals were:
- Exam notable for: 10 cm firm and swollen area on the anterior 
thigh without erythema or fluctuance. No tenderness on posterior 
thigh or calf. No sensory deficits. 2+ pulses bilaterally. Pain 
with flexion of hip and knee.
- Labs notable for: WBC 11.1 (normal differential), CK 36, Na 
131, lactate 1.7
- CT of the RLE without contrast showed: phlegmonous change 
along the anterolateral right by immediately adjacent to the 
vastus lateralis musculature. No focal, drainable fluid 
collection or area of abnormal enhancement is identified.
- Blood & urine specimens gathered for culture.
- 1 g vancomycin (20:58, ___, 1 g ceftriaxone (00:15, ___, 
1L NS, 4 mg morphine & 1 mg hydromorphone were given.
Upon arrival to the floor, patient reports ___ pain in the RLE.
REVIEW OF SYSTEMS:
(+) Per HPI
(-) 10 point ROS reviewed and negative unless stated above in 
HPI
 
Past Medical History:
- Bipolar disorder, previously on seroquel (see prior psych 
note)
- History of suicide attempts via drug overdoses, cutting 
behavior mostly in teenage years, multiple hospitalizations 
during this time to psychiatric facilities
- Narcotics abuse: prior incarcerations for narcotics 
distribution, discharged from narcotics contracts at ___ for 
these reasons as well as multiple abnormal urine tox screens
- Asthma: controlled on albuterol
- Tobacco use
- Chronic MSK complaints: related to prior accidents
- Spontaneous pneumothorax: reports two episodes while coughing
- History of whiplash injury, with cervical canal narrowing and 
peripheral neuropathy
 
Social History:
On admission, endorsed that he was placed in foster homes as a 
child due to parental abuse, had multiple psychiatric admissions 
around this time, see prior psyche notes for details. Was 
previously incarcerated (___) for illegal narcotics 
distribution, which he denies. No incarcerations since. 
Currently lives with his mother in ___, has a fiance and 
a daughter from a previous relationship. Is sexually active with 
fiance only does not use barrier protection, no concerns for 
STDs at this time.

Later in his hospital course, stated that he had recently been 
in prison and had not reconnected with regular health care 
providers since his release, with the exception of a ___ 
clinic in ___.

- Tobacco: ___ ppd x ___ years
- EtOH: rare
- Recreational: marijuana in the distant past.
 
Family History:
Significant for father with bipolar disorder, MIs (unsure what 
age). Brother with asthma. Denies early family history of colon 
or prostate cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITAL SIGNS - T 97.9 BP 148/78 HR 75 R 20 SpO2 96%/RA 107.8 kg
GENERAL - well-appearing, in no distress
HEENT - PERRL, moist mucous membranes
NECK - no JVD
CARDIAC - regular, normal S1/S2, no murmur
LUNGS - clear
ABDOMEN - obese, soft, non-tender, non-distended
EXTREMITIES - ___ pitting edema to knees bilaterally; 
demarcated area of induration & tenderness, without erythema or 
crepitus over right anterior thigh
NEUROLOGIC - face symmetric, tongue midline, no obvious focal 
deficits, oriented x3

DISCHARGE PHYSICAL EXAM:
======================
VS:98.2 PO 134 / 78 70 18 95 RA 
GENERAL - well-appearing, in no distress
HEENT - PERRL, moist mucous membranes
NECK - no JVD
CARDIAC - regular, normal S1/S2, no murmur
LUNGS - clear
ABDOMEN - obese, soft, non-tender, non-distended
EXTREMITIES - no edema; demarcated area of tenderness on R thh; 
tender to palpation
MSK - pain w/ passive and active ROM as knee and thigh
NEUROLOGIC - face symmetric, tongue midline, no obvious focal 
deficits, oriented x3
 
Pertinent Results:
ADMISSION:
=========
___ 03:38PM BLOOD WBC-11.1* RBC-4.82 Hgb-12.0* Hct-40.4 
MCV-84 MCH-24.9* MCHC-29.7* RDW-14.7 RDWSD-44.6 Plt ___
___ 03:38PM BLOOD Neuts-65.3 ___ Monos-8.7 Eos-3.7 
Baso-0.7 Im ___ AbsNeut-7.24* AbsLymp-2.34 AbsMono-0.96* 
AbsEos-0.41 AbsBaso-0.08
___ 03:38PM BLOOD Glucose-111* UreaN-17 Creat-0.7 Na-131* 
K-3.9 Cl-94* HCO3-26 AnGap-15
___ 03:38PM BLOOD CK(CPK)-36*
___ 03:50PM BLOOD Lactate-1.7

OTHER PERTINENT:
===============
___ 06:58AM BLOOD calTIBC-403 Ferritn-10* TRF-310
___ 06:58AM BLOOD  Iron-29*

___ 06:58AM BLOOD WBC-9.8 RBC-4.63 Hgb-11.5* Hct-38.5* 
MCV-83 MCH-24.8* MCHC-29.9* RDW-14.6 RDWSD-44.2 Plt ___
___ 06:30AM BLOOD WBC-8.1 RBC-4.69 Hgb-11.4* Hct-38.6* 
MCV-82 MCH-24.3* MCHC-29.5* RDW-14.6 RDWSD-43.7 Plt ___
 
___ 06:58AM BLOOD Glucose-79 UreaN-7 Creat-0.9 Na-142 K-4.9 
Cl-104 HCO3-20* AnGap-23*
 
___ 03:05PM BLOOD Glucose-106* UreaN-6 Creat-0.8 Na-135 
K-4.5 Cl-99 HCO3-24 AnGap-17
 
___ 06:58AM BLOOD CK(CPK)-136
___ 06:30AM BLOOD CK(CPK)-114
 
IMAGING:
=======
___ 6:12 ___
CT LOW EXT W/O C RIGHT
IMPRESSION: 
Tracking fluid/phlegmonous change along the anterolateral right 
thigh, immediately adjacent to the vastus lateralis musculature. 
 No focal, drainable fluid collection or area of abnormal 
enhancement is identified.  No soft tissue gas.

___ 9:39 AM
BILAT LOWER EXT VEINS
IMPRESSION:
1. No evidence of deep venous thrombosis in the right or left 
lower extremity veins.
2. Superficial edema noted in the right mid thigh.

DISCHARGE:
=========
___ 06:30AM BLOOD WBC-8.1 RBC-4.69 Hgb-11.4* Hct-38.6* 
MCV-82 MCH-24.3* MCHC-29.5* RDW-14.6 RDWSD-43.7 Plt ___
___ 06:30AM BLOOD Glucose-82 UreaN-9 Creat-0.9 Na-141 K-4.8 
Cl-102 HCO3-21* AnGap-23*
 
Brief Hospital Course:
___ with history of opioid use disorder on methadone, bipolar 
disorder not on treatment, presented with R thigh pain and 
swelling for 5 days after self-injecting testosterone. CT scan 
showed 1.0 x 1.7 x 10.4 cm phlegmon in R anterolateral thigh 
without drainable collection, soft tissue air, or abnormal 
enhancement. He was briefly treated with vanc/ceftriaxone but 
this was stopped on HD#2 due to low clinical concern for 
infection. CKs were not elevated and kidney function remained 
good. He was continued on home methadone. He was discharged with 
new PCP ___ per his request and instructed not to 
self-inject testosterone.

TRANSITIONAL ISSUES:
# please assess R thigh edema, pain
# Has post-discharge f/u apt ___ with new primary doctor. 
# Recommend work-up for iron deficiency anemia
# Recommend psychiatry referral for history of bipolar disorder. 
Patient agreeable to this.
# Please evaluate clinical need for testosterone
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 100 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate Duration: 4 Days 

RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*16 Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma  
4.  Methadone 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Right thigh phlegmon

SECONDARY:
Iron deficiency anemia
Chronic opioid use

 
Discharge Condition:
A&Ox3
R thigh with focal edema anteriorly spanning approx. 10cm , 
without erythema or increased warmth
Independently ambulatory with mild thigh pain

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

WHY YOU CAME TO THE HOSPITAL?
You came because of pain and swelling in your R thigh after self 
injecting testosterone to your thigh. 

WHAT WE DID FOR YOU IN THE HOSPITAL?
We obtained a CT scan of your thigh which showed a fluid 
collection called "phlegmon", but reassuringly no abscess or 
other signs of infection. Your physical exam showed swelling but 
no signs worrisome for inflammation. We checked ___ to make 
sure you did not have muscle damage, kidney injury, or other 
concerning abnormalities, which were all reassuring. You briefly 
got antibiotics, but this was stopped and your pain improved. 

WHAT TO DO WHEN YOU GET HOME:
- We set you up with a new primary doctor at ___. Please 
see below for details.
- Stop self-injecting testosterone. Your new primary doctor can 
prescribe it if necessary.
- You have slightly low blood counts, a condition called anemia. 
Your primary doctor should get repeat ___ in the near future 
and may do additional testing to figure out why.
- If you develop fevers, redness in your thigh, worsening pain, 
or any other concerning symptom, call you doctor or return to 
the ED immediately.
- If you continue to have pain, we recommend taking 
acetaminophen (Tylenol) as directed. If pain is not relieved, 
you may take ibuprofen as directed. 

It was our pleasure caring for you. We wish you the best!

Sincerely,
Your ___ care team
 
Followup Instructions:
___